* Spice library implementing microcells for simulation of post-layout netlists
* 2021-Nov-20  cpldcpu

* Extracted circuit microcell
.SUBCKT NM G D S
X1 D G S 2N7002   
R1 VCC G {RL}
.ENDS NM

.SUBCKT NMg A G D
X1 D G GND 2N7002   
R1 VCC A {RL}
R2 A G   {RL}
.ENDS NM

.SUBCKT NOT A Y
Q1 Y N001 VEE 0 RTL_NPN
R1 VCC A {RL}
R2 N001 A {RB}
.ENDS NOT

.SUBCKT NOTb A base Y
Q1 Y base VEE 0 RTL_NPN
R1 VCC A {RL}
R2 base A {RB}
.ENDS NOT

* npn pass transistor with collector at input
.SUBCKT TBUFc E A Y
Q1 A N001 Y 0 RTL_NPN
R1 E N001 {RB}
R2 VCC A {RL}
R3 VCC E {RL}
.ENDS NOT

* npn pass transistor with emitter at input
.SUBCKT TBUFe E A Y
Q1 Y N001 A 0 RTL_NPN
R1 E N001 {RB}
R2 VCC A {RL}
R3 VCC E {RL}
.ENDS NOT

* for post layout simulation
.SUBCKT AMUX B1 B2 S A
X1 B2 GND B1 A VCC S 74LVC1G3157
.ENDS

.SUBCKT LED A
Q1 N002 N001 VEE 0 RTL_NPN
R1 VCC N002 {RL}
R2 N001 A {RB}
.ENDS NOT

.SUBCKT IOP A
R1 VCC A {RL}
.ENDS NOT

.SUBCKT ne_NOT A Y   
XU1 A N001 A VCC Y NC_01 VCC 0 TLC55X
C1 VCC 0 100n
.ENDS ne_NOT

.SUBCKT ne_WAND2 A B Y
R1 VCC Y {RL}
D1 Y A RTL_DIODE
D2 Y B RTL_DIODE
.ENDS ne_WAND2

.SUBCKT ne_WAND3 A B C Y
R1 VCC Y {RL}
D1 Y A RTL_DIODE
D2 Y B RTL_DIODE
D3 Y C RTL_DIODE
.ENDS ne_WAND3

.SUBCKT ne_WAND4 A B C D Y
R1 VCC Y {RL}
D1 Y A RTL_DIODE
D2 Y B RTL_DIODE
D3 Y C RTL_DIODE
D4 Y D RTL_DIODE
.ENDS ne_WAND4

.SUBCKT ne_TBUF E A Y
Q1 A P001 Y 0 RTL_NPN
R1 Y 0 {RL}
R2 VCC Y {RL}
R3 E P001 {RL}
.ENDS DLATCH