* Spice library implementing microcells for simulation of post-layout netlists
* 2021-Nov-20  cpldcpu

* Extracted circuit microcell

********************************************************************************
*nmos logic
********************************************************************************

* NMOS inverter
.SUBCKT NM G D S
X1 D G S NMOS_MOSFET   
R1 VCC D {RL}
.ENDS NM

* NMOS with open drain
.SUBCKT NMod G D S
X1 D G S NMOS_MOSFET   
.ENDS NM

* .SUBCKT NMg A G D
* X1 D G GND 2N7002   
* R1 VCC A {RL}
* R2 A G   {RL}
* .ENDS NM

********************************************************************************
* Resistor Transistor Logic
********************************************************************************

.SUBCKT rt_NOT A Y
Q1 Y N001 VEE 0 RTL_NPN
R1 VCC A {RL}
R2 N001 A {RB}
C1 A N001 {CB}
.ENDS NOT

********************************************************************************
* RTPG
********************************************************************************

*rtpg_NOT      
*rtpg_NOToc    
*rtpg_TBUFc    
*rtpg_NOTb     
*rtpg_TBUFe    

.SUBCKT rtpg_NOT A Y
Q1 Y N001 VEE 0 RTL_NPN
R1 VCC Y {RL}
R2 N001 A {RB}
.ENDS rtpg_NOT

.SUBCKT rtpg_NOToc A Y
Q1 Y N001 VEE 0 RTL_NPN
R2 N001 A {RB}
.ENDS rtpg_NOToc

.SUBCKT rtpg_NOTb A base Y
Q1 Y base VEE 0 RTL_NPN
R1 VCC Y {RL}
R2 base A {RB}
.ENDS rtpg_NOTb

* npn pass transistor with collector at input
.SUBCKT rtpg_TBUFc E A Y
Q1 A N001 Y 0 RTL_NPN
R1 E N001 {RB}
R2 VCC E {RB}
.ENDS rtpg_TBUFc

* npn pass transistor with emitter at input
.SUBCKT rtpg_TBUFe E A Y
Q1 Y N001 A 0 RTL_NPN
R1 E N001 {RB}
R2 VCC Y {RB}
.ENDS rtpg_TBUFe

********************************************************************************
* amux 
********************************************************************************

.SUBCKT AMUX B1 B2 S A
X1 B2 GND B1 A VCC S 74LVC1G3157
.ENDS

********************************************************************************
* LED and IO cells
********************************************************************************

.SUBCKT LED A
Q1 N002 N001 VEE 0 RTL_NPN
R1 VCC N002 {RL}
R2 N001 A {RB}
.ENDS LED

.SUBCKT IOP A
R1 VCC A {RL}
.ENDS IOP

********************************************************************************
* NE logic
********************************************************************************

.SUBCKT ne_NOT A Y   
XU1 A N001 A VCC Y NC_01 VCC 0 TLC55X
C1 VCC 0 100n
.ENDS ne_NOT

.SUBCKT ne_ANDN2 A B Y   
XU1 B N001 B A Y NC_01 VCC 0 TLC55X
C1 VCC 0 100n
.ENDS ne_ANDN2

.SUBCKT ne_WAND2 A B Y
R1 VCC Y {RL}
D1 Y A RTL_DIODE
D2 Y B RTL_DIODE
.ENDS ne_WAND2

.SUBCKT ne_WAND3 A B C Y
R1 VCC Y {RL}
D1 Y A RTL_DIODE
D2 Y B RTL_DIODE
D3 Y C RTL_DIODE
.ENDS ne_WAND3

.SUBCKT ne_WAND4 A B C D Y
R1 VCC Y {RL}
D1 Y A RTL_DIODE
D2 Y B RTL_DIODE
D3 Y C RTL_DIODE
D4 Y D RTL_DIODE
.ENDS ne_WAND4

.SUBCKT ne_TBUF E A Y
Q1 A P001 Y 0 RTL_NPN
R1 Y 0 {RL}
R2 VCC Y {RL}
R3 E P001 {RL}
.ENDS DLATCH

* LTL
.SUBCKT ltl_NOTs A Y
Q1 Y N001 VEE 0 RTL_NPN
R1 VCC Y {RL}
D1 A N001 LEDW
.ENDS ltl_NOTs

.SUBCKT ltl_NOTb A B Y
Q1 Y B VEE 0 RTL_NPN
R1 VCC Y {RL}
D1 A B LEDW
.ENDS ltl_NOTb

.SUBCKT ltl_WAND1 A Y
R1 VCC Y {RB}
D1 Y A LEDR
.ENDS ltl_WAND1

.SUBCKT ltl_WAND2 A B Y
R1 VCC Y {RB}
D1 Y A LEDR
D2 Y B LEDR
.ENDS ltl_WAND2

.SUBCKT ltl_WAND3 A B C Y
R1 VCC Y {RB}
D1 Y A LEDR
D2 Y B LEDR
D3 Y C LEDR
.ENDS ltl_WAND3

.SUBCKT ltl_WAND4 A B C D Y
R1 VCC Y {RB}
D1 Y A LEDR
D2 Y B LEDR
D3 Y C LEDR
D4 Y D LEDR
.ENDS ltl_WAND4

